US06133271
With the procedure of Example 477, the reaction of 4-cyanopyridine and 2-amino-5-methyl-3-ethoxycarbonyl-thiophene, and the subsequent reaction with POCl3 yields 4-chloro-2-(pyridin-4-yl)-6-methyl-thieno-[2,3-d]-pyrimidine

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 2-amino-5-methyl-3-ethoxycarbonyl-thiophene | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(pyridin-4-yl)-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NC=C1)SC(=C2)C | C12H8ClN3S
